US06809199B2
Step D: 5-(bromomethyl)-4-chloro-6-(2,4-difluorophenyl)-2-(methylthio)pyrimidine
A suspension of 5.4 g of 4-chloro-6-(2,4-difluorophenyl)-5-methyl-2-(methylthio)pyrimidine. 3.69 g of N-bromosuccinimide, and 460 mg of benzoyl peroxide in 75 mL of CCl4 was heated to reflux and stirred at this temperature for 6 h, then cooled in the freezer for 1 h. The solids were filtered and washed liberally with cold CCl4, and the filtrate was concentrated. The residue was purified by flash chromatography on a Biotage 40M column, eluting with a gradient system of 99:1 to 97:3 hexanes-acetone to yield the title compound. Mass spectrum (ESI) 367 (M+1).

reactant | 4-chloro-6-(2,4-difluorophenyl)-5-methyl-2-(methylthio)pyrimidine | 5.4 g | ClC1=NC(=NC(=C1C)C1=C(C=C(C=C1)F)F)SC | C12H9ClF2N2S
reactant | N-bromosuccinimide | 3.69 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 460 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | CCl4 | 75 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-(bromomethyl)-4-chloro-6-(2,4-difluorophenyl)-2-(methylthio)pyrimidine | BrCC=1C(=NC(=NC1C1=C(C=C(C=C1)F)F)SC)Cl | C12H8BrClF2N2S
